Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pressure
 
Major Surgical or Invasive Procedure:
___ - Cardiac catheterization, showing normal coronaries
 
History of Present Illness:
___ year old female with PMHx of osteoporosis, depression/anxiety 
and chronic back pain presents with chief complaint of chest 
pain. Patient was eating last night when she vomited suddenly 
after eating and felt unwell. Vomitus contained food. Chest pain 
since then radiating to the back. Pain improved but still 
present upon presentation to ER. Not exertional but does 
temporarily improve with change in position and worsen with deep 
breathing. ECG showed ___ and STD II, aVF, V3-V6. No priors for 
comparison. Received ASA. She initially presented to PCP who 
noted ___ and STDs II, avF, V3-V6, but no olds for comparison. 

ED COURSE
In the ED intial vitals were: 97.9 82 117/75 18 96% RA   
EKG: EKG here with resolution of inferior depressions. 
Labs/studies notable for: Normal CBC, BMP, LFTs, Tnt negative 
x2, negative UA. 
Patient was given:  1L IVF, Asa, and home Clonapin and Effexor. 
Pt had an exercise stress test which was notable for ischemic 
chest pain with multiple STD and a STE. CTA negative for PE but 
positive for moderate hiatal hernia.

On the floor the patient states that she is having ___ chest 
discomfort that started after she ate ice cream. This morning 
she had the same pain after eating eggs. She confirms the above 
story.

ROS significant for no recent URI or sick contacts, recently 
stopped Fosamax secondary to acid reflux and jaw pain, 
occasional constipation and mild headaches for the past few 
weeks, chronic fatigue, 30lb weight gain over last 8 months.  

REVIEW OF SYSTEMS: On review of systems, denies any prior 
history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. Denies 
recent fevers, chills or rigors. Denies exertional buttock or 
calf pain. All of the other review of systems were negative 
except for as above.

Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  

 
Past Medical History:
- Hypercholesterolemia
- Osteoporosis
- Chronic Back Pain
- Depression
- Acid reflux
- Diverticulosis
- Bowel surgery in ___ for perforated colon secondary to 
diverticulitis.
 
Social History:
___
Family History:
DM mild dx late in father prior to death at ___, mother dies of 
brain cancer at age ___.
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  

 
Physical Exam:
======================
ADMISSION PHYSICAL EXAM:
======================
VS: 98.8, 78, 127/72, 20, 95% RA 
GENERAL: Obese woman in bed comfortable in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, mucous membranes moist with scattered ecchymoses over the 
soft palate and uvula.   
NECK: Supple with JVP of 6-7 cm.  
CARDIAC: RRR, normal S1, prominent S2. No murmurs/rubs/gallops. 
No thrills, lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Lungs CTAB.  
ABDOMEN: Soft, NTND. unable to appreciate HSM, large well healed 
diagonal scar across abdomen from perforated bowel surgery.
EXTREMITIES: No c/c/e. ___ pulses +1 bilaterally.  
SKIN: No stasis dermatitis or ulcers

======================
DISCHARGE PHYSICAL EXAM:
======================
VS: 97.7, 59, 96/56, 18, 99%RA
GENERAL: Lying in bed, NAD
HEENT: mucous membranes moist 
NECK: Supple, JVP not elevated
CARDIAC: RRR, normal S1, prominent S2. No murmurs/rubs/gallops. 
LUNGS: Lungs CTAB.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: No edema. ___ pulses +1 bilaterally. 

 
Pertinent Results:
===================
ADMISSION LABS:
===================
___ 09:50PM BLOOD WBC-6.3 RBC-3.70* Hgb-12.3 Hct-35.7 
MCV-97 MCH-33.2* MCHC-34.5 RDW-12.6 RDWSD-45.1 Plt ___
___ 09:50PM BLOOD Neuts-57.5 ___ Monos-15.1* 
Eos-1.9 Baso-0.8 Im ___ AbsNeut-3.62 AbsLymp-1.54 
AbsMono-0.95* AbsEos-0.12 AbsBaso-0.05
___ 05:05PM BLOOD ___ PTT-29.7 ___
___ 09:50PM BLOOD Glucose-98 UreaN-17 Creat-1.0 Na-139 
K-4.1 Cl-101 HCO3-25 AnGap-17
___ 09:50PM BLOOD ALT-15 AST-21 AlkPhos-71 TotBili-0.5
___ 09:50PM BLOOD cTropnT-<0.01
___ 04:30AM BLOOD cTropnT-<0.01
___ 05:05PM BLOOD CK-MB-1 cTropnT-<0.01
___ 09:50PM BLOOD Albumin-4.1
___ 05:05PM BLOOD %HbA1c-5.4 eAG-108
___ 05:05PM BLOOD Triglyc-65 HDL-127 CHOL/HD-1.7 LDLcalc-80
___ 05:05PM BLOOD Cholest-220*
___ 05:05PM BLOOD TSH-2.8

===================
DISCHARGE LABS:
===================
___ 05:10AM BLOOD WBC-5.5 RBC-3.71* Hgb-12.1 Hct-37.2 
MCV-100* MCH-32.6* MCHC-32.5 RDW-12.3 RDWSD-45.1 Plt ___
___ 05:10AM BLOOD Glucose-91 UreaN-22* Creat-0.8 Na-142 
K-4.3 Cl-107 HCO3-25 AnGap-14
___ 05:10AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.2

===================
MICROBIOLOGY
===================
none

===================
IMAGING / STUDIES:
===================
___ CXR - No acute cardiopulmonary process. 

___ CARDIAC STRESS TEST 
INTERPRETATION:  She exercised for 9 minutes of a Modified ___ 
protocol ___ METs) and 
stopped due to fatigue and shortness of breath. This represents 
an average functional capacity for her age. At 8.5 minutes into 
exercise, she reported ___ mid-sternal pressure that she 
stated "has been slowly building up" throughout exercise and 
self resolved by 1.5 minutes of recovery. In the setting of 
diffuse flat T waves on baseline ECG, there was an additional 
1-1.5mm Flat ST segment depression in leads II,III,avF,V5,V6 and 
1mm ST segment elevation in lead avR only starting near 3 
minutes into exercise, reaching the above mentioned degree near 
peak exercise and all returning back to baseline morphology by 5 
minutes of recovery. The rhythm was sinus with occasional 
isolated VPB's seen scattered throughout the study. The heart 
rate and blood pressure responded appropriately to both exercise 
and recovery. 
IMPRESSION: Anginal symptoms and ischemic ECG changes. 
Appropriate hemodynamic responses. Average functional capacity. 

___ CTA W/ and W/O CONTRAST:  
1.  No pulmonary embolus or acute aortic abnormality. 
2.  Moderate-sized hiatal hernia. 
3.  Wedge compression deformities at T6, T7, and T12, of unknown 
chronicity. 
4.  Moderate pulmonary emphysema. 

___ PANOREX MANDIBLE:
IMPRESSION:  Single Panorex view shows no evidence of bone or 
joint space abnormality.  No area of osteosclerosis is 
appreciated. 

___ TTE:
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.  

___ CARDIAC CATHETERIZATION: No evidence of coronary 
disease.

 
Brief Hospital Course:
___ with no significant cardiac history presenting with chest 
pain exacerbated by food, moderate hiatal hernia, and stress 
test concerning for multivessel CAD. 

# Chest Pain:
The patient initially presented with chest pain concerning for 
cardiac etiology. However, an EKG showed no signs of ischemia 
and trops were negative. Patient also had CTA, which was 
negative for PE. To further evaluate the patient's chest pain, 
she underwent a cardiac stress test which showed evidence of 
multivessel CAD. The patient was started on atorvastatin 80, 
aspirin 81, lisinopril, and metoprolol while in the hospital. As 
below, she was also started on Maalox and omeprazole due to an 
incidentally discovered hiatal hernia. The patient had no 
additional chest pain during the hospitalization. She underwent 
cardiac catheterization on ___ which showed normal 
coronaries. The patient's ___ year risk of heart attack or stroke 
was calculated to be ~3%, and therefore the aspirin and 
atorvastatin were stopped, and the lisinopril and metoprolol 
were stopped as well prior to discharge.

# Hiatal Hernia:
An incidental hiatal hernia found on CTA. As the patient had 
noted that the chest pain was often associated with eating, it 
was thought that GERD may be contributing to her presentation. 
The patient was treated with Maalox and omeprazole with complete 
resolution of her chest discomfort, and these were continued on 
discharge.

# Osteoporosis:
Patient with history of osteoporosis and chronic back pain 
secondary to spinal fractures. Patient had been taking Fosamax, 
which had been stopped secondary to acid reflux and jaw pain. 
Concern for osteonecrosis of the jaw so panorex was obtained, 
which did not show any evidence ___ lesions. 

# Depression / Anxiety:
Patient with history of depression and anxiety. Continued her 
home venlafaxine, risperidone and klonapin without acute event.  


==========================
TRANSITIONAL ISSUES
==========================
TRANSITIONAL ISSUES:
# Stopped Fosamax secondary to acid reflux and jaw pain, 
continue to monitor osteoporosis.
# The patient was started on omeprazole 20mg daily and Maalox 
for acid reflux
# Code: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine 150 mg PO QAM 
2. Venlafaxine 75 mg PO QPM 
3. ClonazePAM 1 mg PO BID:PRN anxiety 
4. RISperidone 0.5 mg PO BID 
5. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 

 
Discharge Medications:
1. ClonazePAM 1 mg PO BID:PRN anxiety 
2. RISperidone 0.5 mg PO BID 
3. Venlafaxine 150 mg PO QAM 
4. Venlafaxine 75 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
6. Maalox/Diphenhydramine/Lidocaine 30 mL PO TID:PRN indigestion 

RX *alum-mag hydroxide-simeth [Maalox Advanced] 200 mg-200 mg-20 
mg/5 mL 30 mL by mouth three times a day Refills:*0
7. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Hiatal hernia

SECONDARY DIAGNOSES:
Hyperlipidemia
Depression / Anxiety
Osteoporosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care here at ___ 
___. You came to us with some chest 
pressure. We took a picture of your chest with a CT to look at 
your lungs which did not show any clot but did show emphysema 
and a hiatal hernia, which means that a part of your stomach has 
moved up into your chest. We treated you with acid reducing 
medication which resolved your chest pressure that was likely 
coming form your hiatal hernia. 
However, we also did a stress test to look at your heart, and 
were concerned about the possibility of heart disease. We did a 
cardiac catheterization to take a better look at the arteries 
which bring blood to your heart, and they were completely 
normal. This means that most likely all of your pain is from 
your hernia, and your heart is healthy.
We also made some changes to your medications. Your new 
medications are omeprazole and Maalox. These medications are for 
your acid reflux. We also stopped your fosamax because of your 
acid reflux and jaw pain.

We are very happy for you that your heart looks healthy, and we 
wish you the best.  If your pain continues you should talk to 
your primary doctor about possibly seeing a gastroenterologist 
(stomach doctor) 

Sincerely,
Your ___ Team.
 
Followup Instructions:
___